US07199147B2
1H-indazole-5-ylmethanol (100 mg, 0.675 mmol) was added to a 48% aqueous hydrogen bromide solution (2.0 ml) at room temperature and stirred at room temperature for 15 hours and then at 50° C. for 5 hours. Subsequently, the reaction solution was filtered and the resulting solid was dried under reduced pressure to obtain 5-(bromomethyl)-1H-indazole hydrobromide (156 mg, 79%).

reactant | 1H-indazole-5-ylmethanol | 0.675 mmol, 100 mg | N1N=CC2=CC(=CC=C12)CO | C8H8N2O
reactant | hydrogen bromide | 2.0 ml | Br | BrH
product | 5-(bromomethyl)-1H-indazole hydrobromide | 156 mg, 79% | Br.BrCC=1C=C2C=NNC2=CC1 | InChI=1S/C8H7BrN2.BrH/c9-4-6-1-2-8-7(3-6)5-10-11-8;/h1-3,5H,4H2,(H,10,11);1H
